US07279580B2
7-Chloro-8-fluoro-3-[4-fluoro-3-(pyridin-3-yl)phenyl]imidazo[1,2-α]pyridine
3-Bromo-7-chloro-8-fluoroimidazo[1,2-α]pyridine (45 mg, 0.18 mmol) was coupled with 4-fluoro-3-(pyridin-3-yl)phenylboronic acid (49 mg, 0.19 mmol), as described in Example 1, to afford the title compound as a white amorphous solid (49 mg, 80%): δH (400 MHz, DMSO) 7.10 (1H, t, J 7.0), 7.54-7.61 (2H, m), 7.77-7.81 (1H, m), 7.92 (1H, dd, J 2.3, 7.4), 7.94 (1H, s), 8.09-8.12 (1H, m), 8.52 (1H, dd, J 1.0, 7.2), 8.65-8.66 (1H, m), 8.88 (1H, s); m/z (ES+) 342 (100%, [MH]+).

reactant | 3-Bromo-7-chloro-8-fluoroimidazo[1,2-α]pyridine | 0.18 mmol, 45 mg | BrC1=CN=C2N1C=CC(=C2F)Cl | C7H3BrClFN2
reactant | 4-fluoro-3-(pyridin-3-yl)phenylboronic acid | 0.19 mmol, 49 mg | FC1=C(C=C(C=C1)B(O)O)C=1C=NC=CC1 | C11H9BFNO2
product | 7-Chloro-8-fluoro-3-[4-fluoro-3-(pyridin-3-yl)phenyl]imidazo[1,2-α]pyridine | 49 mg, 80% | ClC1=C(C=2N(C=C1)C(=CN2)C2=CC(=C(C=C2)F)C=2C=NC=CC2)F | C18H10ClF2N3
